US07244729B2
Step 1.2: {4-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol
570 mg (15 mmol) lithium aluminium hydride are suspended in 150 ml dry THF at RT. 4-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester (1.23 g, 3 mmol) are added and the resulting mixture is heated to reflux for 1 h. The mixture is cooled in an ice bath and treated sequentially with water (0.57 ml), 15% sodium hydroxide solution (0.57 ml) and water (1.71 ml). The solid aluminum complex is removed by filtration (Hyflo Super Cel®; Fluka, Buchs, Switzerland), the filtrate dried over sodium sulfate and the solvent evaporated. The residue was suspended in water, filtered and dried to give the title compound; m.p. >300° C.; HPLC tR=9.14 min.

reactant | lithium aluminium hydride | 15 mmol, 570 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester | 3 mmol, 1.23 g | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)F)Cl)N1)=O | C21H16ClFN4O2
reactant | water | 0.57 ml | O | H2O
reactant | sodium hydroxide | 0.57 ml | [OH-].[Na+]
reactant | water | 1.71 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | {4-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CO | C19H14ClFN4O
